* source DC_BIAS
C_C2         0 N100033  4.7u  TC=0,0 
R_R14         0 N100535  15k TC=0,0 
C_C1         0 VIN  4.7u  TC=0,0 
R_R6         N99991 N100091  4.7k TC=0,0 
R_R4         N100019 VIN  1k TC=0,0 
Q_Q2         N100673 N100673 N101113 QBC807-25 
D_D3         N101193 VOUT BZX84-C10 
R_R11         N101145 VOUT  15k TC=0,0 
R_R3         N101113 VIN  1k TC=0,0 
Q_Q5         N100013 N100571 N100151 QBC817-25 
R_R5         0 N100787  100 TC=0,0 
X_R13         N100535 N100571 N101151 POT PARAMS: SET=1 VALUE=5k
R_R12         N101151 N101145  680 TC=0,0 
R_R2         0 N101023  500 TC=0,0 
D_D1         N100637 N100033 BZX84-C5V1 
C_C3         0 VOUT  4.7u  TC=0,0 
R_R7         0 N99991  100k TC=0,0 
R_RL         0 VOUT  470 TC=0,0 
J_Q1         VIN N100033 N100495 JMMBFJ309LT1 
R_R1         N100033 N100495  150 TC=0,0 
R_R9         N1003030 N1003250  10 TC=0,0 
Q_Q7         N100013 N99991 VOUT QBC817-25 
D_D4         N101199 N101193 BZX84-C5V1 
R_R10         N1003250 VOUT  1 TC=0,0 
Q_Q9         VIN N100013 N100091 QMJD31C 
D_D2         0 N100637 BZX84-C2V7 
R_R8         N100091 N1003030  10 TC=0,0 
C_C4         0 VOUT  4.7u  TC=0,0 
Q_Q4         N100673 N100033 N100151 QBC817-25 
V_V1         VIN 0 22v
Q_Q3         N100013 N100673 N100019 QBC807-25 
Q_Q6         N100151 N100637 N101023 QBC817-25 
Q_Q8         VOUT N100787 0 QMJD31C 
D_D5         N100787 N101199 BZX84-C2V7 
