* source POSITIVE_FEEDBACK_REGULATOR
R_R11         N50604 VOUT  15k TC=0,0 
R_R14         0 N17372  15k TC=0,0 
R_R2         0 N37090  500 TC=0,0 
Q_Q7         N14684 N24387 VOUT QBC817-25 
Q_Q5         N14684 N17408 N14935 QBC817-25 
Q_Q4         N19278 N37352 N14935 QBC817-25 
Q_Q6         N14935 N37343 N37090 QBC817-25 
X_R13         N17372 N17408 N50651 POT PARAMS: SET=1 VALUE=5k
Q_Q9         VIN N14684 N14372 QMJD31C 
R_R3         N37435 VIN  1k TC=0,0 
R_R4         N39183 VIN  1k TC=0,0 
Q_Q2         N19278 N19278 N37435 QBC807-25 
Q_Q3         N14684 N19278 N39183 QBC807-25 
R_R7         0 N24387  100k TC=0,0 
R_R6         N24387 N14372  4.7k TC=0,0 
Q_Q8         VOUT N33412 0 QMJD31C 
D_D3         N38365 VOUT BZX84-C10 
R_R5         0 N33412  100 TC=0,0 
D_D5         N33412 N38408 BZX84-C2V7 
D_D4         N38408 N38365 BZX84-C5V1 
D_D2         0 N37343 BZX84-C2V7 
J_Q1         VIN N37352 N42910 JMMBFJ309LT1 
R_R1         N37352 N42910  150 TC=0,0 
D_D1         N37343 N37352 BZX84-C5V1 
R_R12         N50651 N50604  680 TC=0,0 
R_R8         N14372 N684860  10 TC=0,0 
R_R9         N684860 N685050  10 TC=0,0 
R_R10         N685050 VOUT  1 TC=0,0 
C_C3         0 VOUT  4.7u  TC=0,0 
R_RL         0 VOUT  470 TC=0,0 
C_C1         0 VIN  4.7u  TC=0,0 
C_C4         0 VOUT  4.7u  TC=0,0 
C_C2         0 N37352  4.7u  TC=0,0 
V_V1         VIN 0 23.5V
